US07846944B2
Step 2: Synthesis of 5-Bromo-1-(2,4-difluorophenyl)-7-(2,3-dihydroxypropyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
A solution of 7-allyl-5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (265 mg, 0.724 mmol) in tert-BuOH (5 mL) and water (5 mL) at RT was treated with 4-methylmorpholine N-oxide (127 mg, 1.09 mmol) and potassium osmate dihydrate (10 mg, 0.027 mmol). The resulting mixture was allowed to stir for 16 h at RT, then diluted with an aqueous solution of sodium sulfite (10 mL) and extracted with EtOAc (3×25 mL). The organic extracts were dried over MgSO4, filtered and concentrated. The crude residue was purified on the ISCO 12 g column (0-5% MeOH:DCM) affording the title compound as a white amorphous solid. MS (ESI, pos.ion) m/z: 399.0/401.0 (M+1).

reactant | 7-allyl-5-bromo-1-(2,4-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.724 mmol, 265 mg | C(C=C)N1C2=C(C=C(C1=O)Br)C=NN2C2=C(C=C(C=C2)F)F | C15H10BrF2N3O
reactant | 4-methylmorpholine N-oxide | 1.09 mmol, 127 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tert-BuOH | 5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 5 mL | O | H2O
solvent | sodium sulfite | 10 mL | S(=O)([O-])[O-].[Na+].[Na+]
product | 5-Bromo-1-(2,4-difluorophenyl)-7-(2,3-dihydroxypropyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | BrC1=CC2=C(N(C1=O)CC(CO)O)N(N=C2)C2=C(C=C(C=C2)F)F | C15H12BrF2N3O3
